US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(2-methylpropanoyl)azetidin-3-yl]benzamide
The title compound was prepared as described in Example 1A, substituting -(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide for 3-methylbutan-1-amine and 2-methylpropanoic acid for 4-nitrobenzoic acid. 1H NMR (500 MHz, DMSO-d6) δ ppm 9.10 (t, J=5.9 Hz, 1H), 8.48 (d, J=7.0 Hz, 1H), 7.91 (m, 3H), 7.52 (d, J=1.0 Hz, 1H), 7.48 (m, 2H), 7.38 (s, 1H), 6.85 (dd, J=7.0, 1.7 Hz, 1H), 4.58 (t, J=8.6 Hz, 1H), 4.51 (d, J=5.9 Hz, 2H), 4.26 (t, J=9.0 Hz, 1H), 4.18 (dd, J=8.4, 6.0 Hz, 1H), 3.92 (m, 1H), 3.84 (m, 1H), 3.17 (d, J=5.0 Hz, 1H), 1.00 (dd, J=6.8, 1.6 Hz, 6H); MS (ESI(+)) m/e 377 (M+H)+.

reactant | (azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide | N1CC(C1)C1=C(C(=O)NCC2=CC=3N(C=C2)C=CN3)C=CC=C1 | C18H18N4O
reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 2-methylpropanoic acid | CC(C(=O)O)C | C4H8O2
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(2-methylpropanoyl)azetidin-3-yl]benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CN(C2)C(C(C)C)=O)=O | C22H24N4O2
